US04347371
(4R)-3-[3-(2-Carboxyethyldisulfanyl)propanoyl]-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid (Compound 41)
To a stirred solution of 2.0 g of (4R)-2-hydroxyphenyl-4-thiazolidinecarboxylic acid and 1.7 ml of triethylamine in 15 ml of anhydrous acetone, 2.0 g of dithiodipropanoic anhydride is added. The resulting mixture is continuously stirred for 40 min at room temperature and extracted with ethyl acetate after addition of 50 ml of water containing a small amount of potassium carbonate. The aqueous layer is acidified with N aqueous hydrochloric acid and extracted with ethyl acetate. The second organic layer is washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residual oil is purified by column chromatography on silica gel to give crystals of the titled compound. The yield is 0.6 g (15%).

reactant | (4R)-2-hydroxyphenyl-4-thiazolidinecarboxylic acid | 2.0 g | OC1=C(C=CC=C1)C1SC[C@H](N1)C(=O)O | C10H11NO3S
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | dithiodipropanoic anhydride | 2.0 g | C1(CCSSCCC(=O)O1)=O | C6H8O3S2
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | (4R)-3-[3-(2-Carboxyethyldisulfanyl)propanoyl]-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid | C(=O)(O)CCSSCCC(=O)N1C(SC[C@H]1C(=O)O)C1=C(C=CC=C1)O | C16H19NO6S3
